US04409220
2-Amino-7-cyclobutyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrochloride
This compound was prepared analogous to Example 22 from 1-cyclobutyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine and α-amino-acetamidine dihydrochloride.

reactant | 1-cyclobutyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine | C1(CCC1)N1CCC(=C(CC1)O[Si](C)(C)C)O[Si](C)(C)C | C16H33NO2Si2
reactant | α-amino-acetamidine dihydrochloride | Cl.Cl.NCC(=N)N
product | 2-Amino-7-cyclobutyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrochloride | Cl.Cl.NC=1C=NC2=C(CCN(CC2)C2CCC2)N1 | InChI=1S/C12H18N4.2ClH/c13-12-8-14-10-4-6-16(9-2-1-3-9)7-5-11(10)15-12;;/h8-9H,1-7H2,(H2,13,15);2*1H
